US05112824
Step D: N-[2-[1-[2-(5-Benzofurazanyl)ethyl]-4-piperidinyl]-2,3-dihydro-3-oxo-1H-inden-5-yl]methanesulfonamide
In the manner described in Example 14, 6-methanesulfonamido-2-(4-piperidyl)-indan-1-one hydrochloride (0.20 g, 0.58 mmol), 5-(2-bromoethyl)benzofurazan (0.395 g, 1.74 mmol), sodium bicarbonate (0.146 g, 1.74 mmol) and potassium iodide (20 mg), in 20 mL of acetonitrile were heated under reflux for 30 hours. After purification by flask column chromatography on silica gel eluting with 5% methanol in chloroform saturated with ammonia (gas), and treatment with ethanol HCl, crystallization from methanol gave the title compound as a white solid, mp 214°-217° C.

reactant | 6-methanesulfonamido-2-(4-piperidyl)-indan-1-one hydrochloride | 0.58 mmol, 0.20 g | Cl.CS(=O)(=O)NC1=CC=C2CC(C(C2=C1)=O)C1CCNCC1
reactant | 5-(2-bromoethyl)benzofurazan | 1.74 mmol, 0.395 g | BrCCC=1C=CC=2C(=NON2)C1 | C8H7BrN2O
reactant | sodium bicarbonate | 1.74 mmol, 0.146 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 20 mg | [I-].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-[2-[1-[2-(5-Benzofurazanyl)ethyl]-4-piperidinyl]-2,3-dihydro-3-oxo-1H-inden-5-yl]methanesulfonamide | N1=C2C(=NO1)C=C(C=C2)CCN2CCC(CC2)C2CC1=CC=C(C=C1C2=O)NS(=O)(=O)C | C23H26N4O4S
